USH0002007H1
A stirred solution of 117 grams (1.0 mole) of 4-cyanotoluene, 65.0 grams (1.0 mole) of sodium azide, and 12.0 grams (0.224 mole) of ammonium chloride 800 mL of N,N-dimethylformamide was heated at 130° C. for three hours. After this time the reaction mixture was cooled and then poured into 800 mL of water and 400 mL of ice. The resulting mixture was acidified to pH 2 with 3N hydrochloric acid, and the resulting solid was collected by filtration. The solid was washed with hexane, triturated with 300 mL of methanol, and dried under reduced pressure to a constant weight, yielding 115 grams of 4-(4-methylphenyl)-1,2,3,5-(1H)-tetrazole. The NMR spectrum was consistent with the proposed structure.

reactant | 4-cyanotoluene | 1.0 mole, 117 grams | C(#N)C1=CC=C(C=C1)C | C8H7N
reactant | sodium azide | 1.0 mole, 65.0 grams | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.224 mole, 800 mL, 12.0 grams | [Cl-].[NH4+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | water | 800 mL | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(4-methylphenyl)-1,2,3,5-(1H)-tetrazole | 115 grams | CC1=CC=C(C=C1)C=1N=NNN1 | C8H8N4
